US06294573B1
3-Ethyl-2,5-dioxo-4,4-dimethylimidazolidine
A solution of 3-ethyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine (3.86 g, 14.0 mmol) in methoxybenzene (100 mL) was treated with alumiun trichloride (5.5 g, 42 mmol), stirred at 75° C. for 30 minute, then poured the reaction into HCl solution (10%) and partitioned between ethyl acetate and brine. The organic layer was dried, filtered, and concentrated. Purification by recrystalization with ethyl acetate provided 2.1 g (13.5 mmol, 96%) of title compound as white solid.

reactant | 3-ethyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine | 14.0 mmol, 3.86 g | C(C)N1C(N(C(C1(C)C)=O)CC1=CC=C(C=C1)OC)=O | C15H20N2O3
reactant | HCl | Cl | ClH
solvent | methoxybenzene | 100 mL | COC1=CC=CC=C1 | C7H8O
product | 3-Ethyl-2,5-dioxo-4,4-dimethylimidazolidine | 13.5 mmol, 2.1 g, 96% | C(C)N1C(NC(C1(C)C)=O)=O | C7H12N2O2
